US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(pyridin-4-yl)-1H-pyrazole-3-carboxamide
The title compound was prepared as described in Example 34(d), starting from 1-(pyridin-4-yl)-1H-pyrazole-3-carboxylic acid (47.5 mg, 0.251 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile (70 mg, 0.251 mmol). The precipitate that formed during the reaction was filtered out of the reaction mixture was washed with 2×5 ml of water and dried with vacuum at 40° C. Yield 73.7%. 1H-NMR (400 MHz; DMSO-d6): δ 1.18 (d, 3H), 4.31-4.42 (m, 2H), 4.43-4.54 (m, 1H), 6.90 (d, 1H), 7.01 (dd, 1H), 7.79-8.01 (m, 5H), 8.39 (d, 1H), 8.66-8.73 (m, 2H), 8.77 (d, 1H).

reactant | 1-(pyridin-4-yl)-1H-pyrazole-3-carboxylic acid | 0.251 mmol, 47.5 mg | N1=CC=C(C=C1)N1N=C(C=C1)C(=O)O | C9H7N3O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile | 0.251 mmol, 70 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)Cl)C | C13H12ClFN4
product | (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(pyridin-4-yl)-1H-pyrazole-3-carboxamide | Yield 73.7% | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NN(C=C1)C1=CC=NC=C1 | C22H17ClFN7O
